US08217029B2
A solution of piperazine-1-carboxylic acid tert-butyl ester (commercial; 1.40 g, 7.6 mmol) in dry MeOH (25 mL) was treated with MgSO4 (1.9 g). (R)-Epichlorohydrin (1.47 mL, 18.9 mmol) was added dropwise and the mixture was heated at 35° C. for 2 h and was then stirred at rt overnight. The mixture was filtered over Celite and concentrated under reduced pressure. The residue was taken up in DCM and washed with water. The org. phase was dried over MgSO4 and concentrated under reduced pressure to afford the crude 4-((R)-3-chloro-2-hydroxy-propyl)-piperazine-1-carboxylic acid tert-butyl ester. To a solution of the above intermediate chlorohydrin (2.10 g, 7.53 mmol) and (2,3-dihydro-benzo[1,4]dioxin-6-yl)-carbamic acid benzyl ester (2.15 g, 1 eq, prepared according to WO2007107965) in DMF (30 mL) was added LiOtBu (10.3 mL, 2.2M in THF) at rt. The mixture was stirred at rt over night and subsequently at 50° C. for 5 h. The mixture was partitioned between EA and 0.5M HCl. The aq. phase was basified (NH4OH) and extracted with EA. The org. layer was dried over MgSO4 and concentrated under reduced pressure to afford the title compound as a colorless solid (1.15 g, 36%).

reactant | piperazine-1-carboxylic acid tert-butyl ester | 7.6 mmol, 1.40 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | MgSO4 | 1.9 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | (R)-Epichlorohydrin | 18.9 mmol, 1.47 mL | C(Cl)[C@H]1CO1 | C3H5ClO
solvent | MeOH | 25 mL | CO | CH4O
product | 4-((R)-3-chloro-2-hydroxy-propyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C[C@H](CCl)O | C12H23ClN2O3
